US06617346B1
To a solution of 3-(tert-butyl-dimethyl-silanyloxymethyl)-5-methoxymethyl-benzonitrile (1.402 g, 4.810 mmol) in tetrahydrofuran (10 mL) at room temperature was added tetrabutylammonium fluoride (5.051 mL, 5.051 mmol, 1 M in tetrahydrofuran). The reaction mixture was stirred at room temperature for 2 h then concentrated in vacuo. Purification of the residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 40% ethyl acetate in hexanes yielded 3-hydroxymethyl-5-methoxymethyl-benzonitrile (713 mg, 84%).

reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-5-methoxymethyl-benzonitrile | 4.810 mmol, 1.402 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C#N)C=C(C1)COC)(C)C | C16H25NO2Si
reactant | tetrabutylammonium fluoride | 5.051 mmol, 1 M, 5.051 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-hydroxymethyl-5-methoxymethyl-benzonitrile | 713 mg, 84% | OCC=1C=C(C#N)C=C(C1)COC | C10H11NO2
